US07420001B2
To 370 mg (S)-2-{4′-[(4-isopropoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester dissolved in 2 mL of THF was added 3 mL of LiOH solution (3.6 g LiOH/50 mL MeOH/50 mL H2O). The mixture was stirred at room temperature for 6 days. The solvents were removed under vacuum and the residue was dissolved in 5 mL of water. The solution was acidified and the resulting suspension was filtered. The solid product was dried under vacuum to give 286 mg of (S)-2-{4′-[(4-isopropoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid, obtained as white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.8 (dd, J=13.5, 6.7 Hz, 6 H) 1.4 (d, J=6.1 Hz, 6 H) 1.9 (m, 1 H) 2.7 (s, 3 H) 3.5 (t, J=7.2 Hz, 1 H) 4.8 (m, 1 H) 6.9 (d, J=8.6 Hz, 1 H) 7.2 (d, J=8.6 Hz, 1 H) 7.4 (t, J=8.2 Hz, 1 H) 7.8 (d, J=8.8 Hz, 2 H) 7.8 (m, 4 H) 8.0 (m, 3 H) 10.5 (s, 1 H).

reactant | (S)-2-{4′-[(4-isopropoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester | 370 mg | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=CC=C2)OC(C)C)=O | C31H34N2O7S
reactant | LiOH | 3 mL, 3.6 g | [Li+].[OH-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-2-{4′-[(4-isopropoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid | 286 mg | C(C)(C)OC1=CC=CC2=C1C(=C(O2)C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)N[C@H](C(=O)O)C(C)C)C | C30H32N2O7S
